US08975400B2
2-(4-bromo-3-fluorophenoxy)-5-(((I-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (200 mg, 1.078 mmol), sodium hydride (86 mg, 2.155 mmol) and 2-(4-bromo-3-fluorophenoxy)-5-(hydroxymethyl)benzonitrile (346 mg, 1.074 mmol) in DMF (5 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 1.078 mmol, 200 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 2.155 mmol, 86 mg | [H-].[Na+]
reactant | 2-(4-bromo-3-fluorophenoxy)-5-(hydroxymethyl)benzonitrile | 1.074 mmol, 346 mg | BrC1=C(C=C(OC2=C(C#N)C=C(C=C2)CO)C=C1)F | C14H9BrFNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-3-fluorophenoxy)-5-(((I-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | BrC1=C(C=C(OC2=C(C#N)C=C(C=C2)COC=2C=C3N(C(N2)=O)CCN3C)C=C1)F | C21H16BrFN4O3
